US07842688B2
d) 2-(3-Bromopropoxy)-1,3-difluorobenzene
Analogously to Example 91b, 2.00 g of 2,6-difluorophenol and 30.7 g of 1,3-dibromopropane are reacted. The title compound is obtained as a colourless oil. Rf=0.70 (1:6 EtOAc-heptane); Rt=4.97.

reactant | 2,6-difluorophenol | 2.00 g | FC1=C(C(=CC=C1)F)O | C6H4F2O
reactant | 1,3-dibromopropane | 30.7 g | BrCCCBr | C3H6Br2
product | 2-(3-Bromopropoxy)-1,3-difluorobenzene | BrCCCOC1=C(C=CC=C1F)F | C9H9BrF2O
